2142-01-15 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2142-1-14**] 07:31 PM
   [**2142-1-14**] Events:
   - Maintained on Nicardipine drip with improvement of blood pressures
   Pt currently has no complaints.
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Nicardipine - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-1-15**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.8
   HR: 95 (94 - 110) bpm
   BP: 181/134(144) {155/85(101) - 190/134(144)} mmHg
   RR: 18 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    623 mL
                                                                    235 mL
   PO:
                                                                    500 mL
                                                                    200 mL
   TF:
   IVF:
                                                                     23 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                      0 mL
   Urine:
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    243 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General  in NAD
   HEENT  NC, AT, EOMI, PERRLA, MMM
   CVS RRR, 3/6 systolic murmur in all heart fields
   RESP CTA BL, no crackles or wheezes
   ABD  soft, hematoma raised on left anterior abdominal wall, +BS, mildly
   tender over hematoma
   EXT left sided femoral HD line in place, no erythema, no edema
   NEURO  A+Ox3, CN2-12 intact, pt has left sided artificial eye, motor
   and sensory intact
   Labs / Radiology
   133 K/uL
   8.0 g/dL
   90 mg/dL
   5.3 mg/dL
   25 mEq/L
   5.5 mEq/L
   39 mg/dL
   99 mEq/L
   131 mEq/L
   23.6 %
   5.1 K/uL
        [image002.jpg]
                             [**2142-1-15**]  03:00 AM
   WBC
   5.1
   Hct
   23.6
   Plt
   133
   Cr
   5.3
   Glucose
   90
   Other labs: PT / PTT / INR:42.4/58.7/4.7, Ca++:8.7 mg/dL, Mg++:1.7
   mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   24 yo woman with hx of SLE, ERSD on HD, admitted with hypertensive
   urgency.
   .
   # Hypertension: Pt with extensive history of hypertension. Patient's BP
   improved with nicardipine drip.
   - Off nicardipine drip this AM
   - restart all home oral antihypertensives including nicardipine 30 Q8H,
   aliskerin 150mg [**Hospital1 **], labetalol 800mg TID, hydralazine 100mg TID, and
   clonidine 0.3mg + 0.1mg weekly at current doses.
   - Renal consulted, due for HD tuesday
   - HD was MWF last week because of holiday schedule, will put back on
   home schedule of T, TH, Sat
   - follow renal recs
   .
   # Left abdominal wall hematoma:  Abd CT showed small amount of decrease
   in the size.  Will continue pain management with morphine 7.5mg TID,
   gabapentin and tylenol as needed for pain.
   .
   # SLE:
   - continue prednisone at 4 mg PO daily
   .
   #ESRD: Renal following, plan for HD on Tuesday, back on regular
   schedule.
   - follow lytes, replete as indicated
   - HD T, TH, Sat this week
   .
   # Anemia: mildly decreased today,  baseline 26, she is mildly decreased
   from baseline. AOCD and in setting of renal failure
   - monitor HCT daily
   .
   # SVC thrombus: Found to have SVC thrombus, supratherapeutic on
   coumadin.
   - will hold for now and trend INR
   - monitor coags
   .
   # HOCM: evidence of myocardial hypertrophy on recent Echo. Currently
   not symptomatic. Echo without evidence of worsening pericardial
   effusion.
   - Continue beta blocker
   # Depression/anxiety. Continue Celexa, clonazepam 0.5mg [**Hospital1 **]
   .
   # OSA: CPAP for sleep with 7 pressure, however patient refuses.
   -continue to offer as inpatient
   .
   # FEN: replete lytes prn / regular diet
   .
   # PPX: supratherapeutic on coumadin, bowel regimen
   .
   # ACCESS: PIV/ permanent dialysis cath R fem
   .
   # CODE: FULL
   .
   # CONTACT: [**First Name8 (NamePattern2) 4948**] [**Name (NI) **] (mother) [**Telephone/Fax (1) 7000**]
   .
   # DISPO: ICU care for now
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE
   EMERGENCY)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2142-1-14**] 07:30 PM
   Tunneled (Hickman) Line - [**2142-1-14**] 07:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-01-16 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-15**] Events:
   -Underwent dialysis early due to elevated K, EKG showed peaked T waves,
   otherwise unremarkable.  Got 15 mg Kayexalate
   -PM HCT stable 24.8
   -Received extra 30 mg of Nicardipine at 2 AM for pressure of 230/129
   while asleep
   -c/o abdominal pain overnight-states morphine not helpful, given 0.5 mg
   dilaudid IV once
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-1-16**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36
C (96.8
   HR: 79 (79 - 101) bpm
   BP: 118/64(77) {118/64(77) - 228/141(154)} mmHg
   RR: 13 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    646 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                     46 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                    100 mL
   Urine:
                                                                  1,800 mL
                                                                    100 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -2,154 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General  in NAD
   HEENT  NC, AT, EOMI, PERRLA, MMM
   CVS RRR, 3/6 systolic murmur in all heart fields
   RESP CTA BL, no crackles or wheezes
   ABD  soft, hematoma raised on left anterior abdominal wall, +BS, mildly
   tender over hematoma
   EXT left sided femoral HD line in place, no erythema, no edema
   NEURO  A+Ox3, CN2-12 intact, pt has left sided artificial eye, motor
   and sensory intact
   Labs / Radiology
   154 K/uL
   8.4 g/dL
   102 mg/dL
   6.1 mg/dL
   21 mEq/L
   4.8 mEq/L
   47 mg/dL
   101 mEq/L
   132 mEq/L
   25.6 %
   3.8 K/uL
        [image002.jpg]
                             [**2142-1-15**]  03:00 AM
                             [**2142-1-15**]  01:39 PM
                             [**2142-1-16**]  03:28 AM
   WBC
   5.1
   3.8
   Hct
   23.6
   24.8
   25.6
   Plt
   133
   154
   Cr
   5.3
   6.1
   Glucose
   90
   102
   Other labs: PT / PTT / INR:42.4/58.7/4.7, Ca++:8.1 mg/dL, Mg++:1.8
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   24 yo woman with hx of SLE, ERSD on HD, admitted with hypertensive
   urgency.
   .
   # Hypertension: Pt with extensive history of hypertension. Patient's BP
   improved with nicardipine drip.  Became increased yesterday when the
   patient missed a dose of oral nicardipine, but came down after a
   replacement dose.
   - Off nicardipine drip for 24 hours
   - restarted all home oral antihypertensives including nicardipine 30
   Q8H, aliskerin 150mg [**Hospital1 **], labetalol 900mg TID, hydralazine 100mg TID,
   and clonidine 0.3mg + 0.1mg weekly at current doses.
   - Renal consulted, due for HD for today
   - HD was MWF last week because of holiday schedule, will put back on
   home schedule of T, TH, Sat
   - follow renal recs
   .
   #  Hyperkalemia:  resolved today with administration of kayexalate.  Pt
   will have HD today.  Will continue to monitor.
   .
   # Left abdominal wall hematoma:  Abd CT showed small amount of decrease
   in the size.  Pt reported that morphine did not help pain, switched to
   dilaudid PO instead.  Contine gabapentin and tylenol as needed for
   pain.
   .
   # SLE:
   - continue prednisone at 4 mg PO daily
   .
   #ESRD: Renal following, plan for HD on Tuesday, back on regular
   schedule.
   - follow lytes, replete as indicated
   - HD T, TH, Sat this week
   .
   # Anemia: mildly decreased today, baseline 26, she is mildly decreased
   from baseline. AOCD and in setting of renal failure
   - monitor HCT daily
   .
   # SVC thrombus: Found to have SVC thrombus, supratherapeutic on
   coumadin.
   - will hold for now and trend INR
   - monitor coags
   .
   # HOCM: evidence of myocardial hypertrophy on recent Echo. Currently
   not symptomatic. Echo without evidence of worsening pericardial
   effusion.
   - Continue beta blocker
   # Depression/anxiety. Continue Celexa, clonazepam 0.5mg [**Hospital1 **]
   .
   # OSA: CPAP for sleep with 7 pressure, however patient refuses.
   -continue to offer as inpatient
   .
   # FEN: replete lytes prn / regular diet
   .
   # PPX: supratherapeutic on coumadin, bowel regimen
   .
   # ACCESS: PIV/ permanent dialysis cath R fem
   .
   # CODE: FULL
   .
   # CONTACT: [**First Name8 (NamePattern2) 4948**] [**Name (NI) **] (mother) [**Telephone/Fax (1) 7000**]
   .
   # DISPO: call out to the floor today
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE
   EMERGENCY)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2142-1-14**] 07:30 PM
   Tunneled (Hickman) Line - [**2142-1-14**] 07:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-01-17 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Called out but hypertensive to 180s, kept overnight.
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-1-17**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 91 (79 - 96) bpm
   BP: 157/106(116) {108/53(68) - 192/126(140)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,060 mL
                                                                    360 mL
   PO:
                                                                  1,060 mL
                                                                    360 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    750 mL
                                                                    350 mL
   Urine:
                                                                    750 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    310 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General  in NAD
   HEENT  NC, AT, EOMI, PERRLA, MMM
   CVS RRR, 3/6 systolic murmur in all heart fields
   RESP CTA BL, no crackles or wheezes
   ABD  soft, hematoma raised on left anterior abdominal wall, +BS, mildly
   tender over hematoma
   EXT left sided femoral HD line in place, no erythema, no edema
   NEURO  A+Ox3, CN2-12 intact, pt has left sided artificial eye, motor
   and sensory intact
   Labs / Radiology
   157 K/uL
   8.3 g/dL
   70 mg/dL
   4.3 mg/dL
   28 mEq/L
   4.3 mEq/L
   29 mg/dL
   103 mEq/L
   140 mEq/L
   25.1 %
   3.7 K/uL
        [image002.jpg]
                             [**2142-1-15**]  03:00 AM
                             [**2142-1-15**]  01:39 PM
                             [**2142-1-16**]  03:28 AM
                             [**2142-1-17**]  04:45 AM
   WBC
   5.1
   3.8
   3.7
   Hct
   23.6
   24.8
   25.6
   25.1
   Plt
   133
   154
   157
   Cr
   5.3
   6.1
   4.3
   Glucose
   90
   102
   70
   Other labs: PT / PTT / INR:30.2/51.6/3.1, Ca++:8.5 mg/dL, Mg++:1.7
   mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   24 yo woman with hx of SLE, ERSD on HD, admitted with hypertensive
   urgency.
   .
   # Hypertension: Pt with extensive history of hypertension. Patient's BP
   improved with nicardipine drip.  Became increased yesterday when the
   patient missed a dose of oral nicardipine, but came down after a
   replacement dose.
   - restarted all home oral antihypertensives including nicardipine 30
   Q8H, aliskerin 150mg [**Hospital1 **], labetalol 900mg TID, hydralazine 100mg TID,
   and clonidine 0.3mg + 0.1mg weekly at current doses.
   - Renal consulted, HD yesterday
   - HD was MWF last week because of holiday schedule, will put back on
   home schedule of T, TH, Sat
   - follow renal recs
   -Will call Renal attending following patient to get more concise plan
   given patient continues to have hypertensive episodes about 1 hour
   prior to her Q 8 hour nicardipine dosing.  It would also be useful to
   have plan in place for discharge for when patient returns to ED.
   .
   #  Hyperkalemia:  Stable. Will continue to monitor.
   .
   # Left abdominal wall hematoma:  Abd CT showed small amount of decrease
   in the size.  Pt reported that morphine did not help pain, switched to
   dilaudid PO instead yesterday and pain controlled.  Contine gabapentin
   and tylenol as needed for pain.
   .
   # SLE:
   - continue prednisone at 4 mg PO daily
   .
   #ESRD: Renal following, plan for HD on Tuesday, back on regular
   schedule.
   - follow lytes, replete as indicated
   - HD T, TH, Sat this week
   .
   # Anemia: mildly decreased today, baseline 26, she is mildly decreased
   from baseline. AOCD and in setting of renal failure
   - monitor HCT daily
   .
   # SVC thrombus: Found to have SVC thrombus, supratherapeutic on
   coumadin.
   - will hold for now and trend INR currently 3.1
   - monitor coags  will likely need coumadin restarted tomorrow [**1-18**]
   .
   # HOCM: evidence of myocardial hypertrophy on recent Echo. Currently
   not symptomatic. Echo without evidence of worsening pericardial
   effusion.
   - Continue beta blocker
   # Depression/anxiety. Continue Celexa, clonazepam 0.5mg [**Hospital1 **]
   .
   # OSA: CPAP for sleep with 7 pressure, however patient refuses.
   -continue to offer as inpatient
   .
   # FEN: replete lytes prn / regular diet
   .
   # PPX: supratherapeutic on coumadin, bowel regimen
   .
   # ACCESS: PIV/ permanent dialysis cath R fem
   .
   # CODE: FULL
   .
   # CONTACT: [**First Name8 (NamePattern2) 4948**] [**Name (NI) **] (mother) [**Telephone/Fax (1) 7000**]
   .
   # DISPO: call out to the floor today
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE
   EMERGENCY)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2142-1-14**] 07:31 PM
   20 Gauge - [**2142-1-16**] 11:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-01-18 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - Pt became very hypertensive during the day up to 230's systolic.  She
   was switched from nicardipine to nifedipine CR per renal.  She also
   received an extra dose of hydralazine 100mg PO.  After which her blood
   pressure decreased to 100's - 120's systolic, remained normotensive
   overnight
   - Plan to call out to the floor in AM.
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-1-18**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.3
C (95.5
   HR: 83 (71 - 91) bpm
   BP: 142/84(98) {98/50(60) - 234/145(160)} mmHg
   RR: 23 (10 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,940 mL
                                                                    360 mL
   PO:
                                                                  1,940 mL
                                                                    360 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    950 mL
                                                                    100 mL
   Urine:
                                                                    950 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    990 mL
                                                                    260 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General  in NAD
   HEENT  NC, AT, EOMI, PERRLA, MMM
   CVS RRR, 3/6 systolic murmur in all heart fields
   RESP CTA BL, no crackles or wheezes
   ABD  soft, hematoma raised on left anterior abdominal wall, +BS, mildly
   tender over hematoma
   EXT left sided femoral HD line in place, no erythema, no edema
   NEURO  A+Ox3, CN2-12 intact, pt has left sided artificial eye, motor
   and sensory intact
   Labs / Radiology
   128 K/uL
   7.5 g/dL
   94 mg/dL
   5.1 mg/dL
   25 mEq/L
   4.9 mEq/L
   35 mg/dL
   100 mEq/L
   136 mEq/L
   23.2 %
   3.4 K/uL
                             [**2142-1-15**]  03:00 AM
                             [**2142-1-15**]  01:39 PM
                             [**2142-1-16**]  03:28 AM
                             [**2142-1-17**]  04:45 AM
                             [**2142-1-18**]  02:35 AM
   WBC
   5.1
   3.8
   3.7
   3.4
   Hct
   23.6
   24.8
   25.6
   25.1
   23.2
   Plt
   133
   154
   157
   128
   Cr
   5.3
   6.1
   4.3
   5.1
   Glucose
   90
   102
   70
   94
   Other labs: PT / PTT / INR:30.2/51.6/3.1, Ca++:8.8 mg/dL, Mg++:1.7
   mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   24 yo woman with hx of SLE, ERSD on HD, admitted with hypertensive
   urgency.
   .
   # Hypertension: Pt with extensive history of hypertension. Patient's BP
   improved with nicardipine drip.  Became increased yesterday when the
   patient missed a dose of oral nicardipine, but came down after a
   replacement dose.
   - restarted all home oral antihypertensives including nicardipine 30
   Q8H, aliskerin 150mg [**Hospital1 **], labetalol 900mg TID, hydralazine 100mg TID,
   and clonidine 0.3mg + 0.1mg weekly at current doses.
   - Renal consulted, HD yesterday
   - HD was MWF last week because of holiday schedule, will put back on
   home schedule of T, TH, Sat
   - follow renal recs
   -Will call Renal attending following patient to get more concise plan
   given patient continues to have hypertensive episodes about 1 hour
   prior to her Q 8 hour nicardipine dosing.  It would also be useful to
   have plan in place for discharge for when patient returns to ED.
   .
   #  Hyperkalemia:  Stable. Will continue to monitor.
   .
   # Left abdominal wall hematoma:  Abd CT showed small amount of decrease
   in the size.  Pt reported that morphine did not help pain, switched to
   dilaudid PO instead yesterday and pain controlled.  Contine gabapentin
   and tylenol as needed for pain.
   .
   # SLE:
   - continue prednisone at 4 mg PO daily
   .
   #ESRD: Renal following, plan for HD on Tuesday, back on regular
   schedule.
   - follow lytes, replete as indicated
   - HD T, TH, Sat this week
   .
   # Anemia: mildly decreased today, baseline 26, she is mildly decreased
   from baseline. AOCD and in setting of renal failure
   - monitor HCT daily
   .
   # SVC thrombus: Found to have SVC thrombus, supratherapeutic on
   coumadin.
   - will hold for now and trend INR currently 3.1
   - monitor coags  will likely need coumadin restarted tomorrow [**1-18**]
   .
   # HOCM: evidence of myocardial hypertrophy on recent Echo. Currently
   not symptomatic. Echo without evidence of worsening pericardial
   effusion.
   - Continue beta blocker
   # Depression/anxiety. Continue Celexa, clonazepam 0.5mg [**Hospital1 **]
   .
   # OSA: CPAP for sleep with 7 pressure, however patient refuses.
   -continue to offer as inpatient
   .
   # FEN: replete lytes prn / regular diet
   .
   # PPX: supratherapeutic on coumadin, bowel regimen
   .
   # ACCESS: PIV/ permanent dialysis cath R fem
   .
   # CODE: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2142-1-14**] 07:31 PM
   20 Gauge - [**2142-1-16**] 11:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-01-18 11:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - Pt became very hypertensive during the day up to 230's systolic.  She
   was switched from nicardipine to nifedipine CR per renal.  She also
   received an extra dose of hydralazine 100mg PO.  After which her blood
   pressure decreased to 100's-120's systolic.
   - Plan to call out to the floor in AM.
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-1-18**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96.1
   HR: 101 (71 - 101) bpm
   BP: 153/97(108) {98/50(60) - 234/145(160)} mmHg
   RR: 17 (10 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  1,940 mL
                                                                    480 mL
   PO:
                                                                  1,940 mL
                                                                    480 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    950 mL
                                                                    100 mL
   Urine:
                                                                    950 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    990 mL
                                                                    380 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General  in NAD
   HEENT  NC, AT, EOMI, PERRLA, MMM
   CVS RRR, 3/6 systolic murmur in all heart fields
   RESP CTA BL, no crackles or wheezes
   ABD  soft, hematoma raised on left anterior abdominal wall, +BS, mildly
   tender over hematoma
   EXT left sided femoral HD line in place, no erythema, no edema. L wrist
   erythema & tenderness at IV site
   NEURO  A+Ox3, CN2-12 intact, pt has left sided artificial eye, motor
   and sensory intact
   Labs / Radiology
   128 K/uL
   7.5 g/dL
   94 mg/dL
   5.1 mg/dL
   25 mEq/L
   4.9 mEq/L
   35 mg/dL
   100 mEq/L
   136 mEq/L
   23.2 %
   3.4 K/uL
        [image002.jpg]
                             [**2142-1-15**]  03:00 AM
                             [**2142-1-15**]  01:39 PM
                             [**2142-1-16**]  03:28 AM
                             [**2142-1-17**]  04:45 AM
                             [**2142-1-18**]  02:35 AM
   WBC
   5.1
   3.8
   3.7
   3.4
   Hct
   23.6
   24.8
   25.6
   25.1
   23.2
   Plt
   133
   154
   157
   128
   Cr
   5.3
   6.1
   4.3
   5.1
   Glucose
   90
   102
   70
   94
   Other labs: PT / PTT / INR:30.2/51.6/3.1, Ca++:8.8 mg/dL, Mg++:1.7
   mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   24 year old woman with hx of SLE, ERSD on HD, admitted with
   hypertensive urgency.
   # Hypertension: One episode of hypertension o/n to 200s.
   - restarted all home oral antihypertensives including nicardipine 30
   Q8H, aliskerin 150mg [**Hospital1 **], labetalol 900mg TID, hydralazine 100mg TID,
   and clonidine 0.3mg + 0.1mg weekly at current doses.
   - Renal consulted, HD yesterday
   - HD was MWF last week because of holiday schedule, will put back on
   home schedule of T, TH, Sat
   - follow renal recs
   -Will call Renal attending following patient to get more concise plan
   given patient continues to have hypertensive episodes about 1 hour
   prior to her Q 8 hour nicardipine dosing.  It would also be useful to
   have plan in place for discharge for when patient returns to ED.
   - Will require Outpatient/PCP coordination to protocol her hypertensive
   urgencies here at [**Hospital1 **].
   #  Hyperkalemia:  Stable. Will continue to monitor.
   .
   # Left abdominal wall hematoma:  Pain moderately well controlled on PO
   dialudid, gabapentin & Tylenol.    Contine gabapentin and tylenol as
   needed for pain.
   - Will require outpatient pain coordination through PCP
   .
   # SLE:
   - continue prednisone at 4 mg PO daily
   .
   #ESRD: Renal following, plan for HD on Tuesday, back on regular
   schedule.
   - follow lytes, replete as indicated
   - HD T, TH, Sat this week
   .
   # Anemia: mildly decreased today, baseline 26, she is mildly decreased
   from baseline. AOCD and in setting of renal failure
   - monitor HCT daily
   .
   # SVC thrombus: Found to have SVC thrombus, supratherapeutic on
   coumadin.
   - will hold for now and trend INR currently 3.1
   - monitor coags  will likely need coumadin restarted tomorrow [**1-18**]
   .
   # HOCM: evidence of myocardial hypertrophy on recent Echo. Currently
   not symptomatic. Echo without evidence of worsening pericardial
   effusion.
   - Continue beta blocker
   # Depression/anxiety. Continue Celexa, clonazepam 0.5mg [**Hospital1 **]
   .
   # OSA: CPAP for sleep with 7 pressure, however patient refuses.
   -continue to offer as inpatient
   .
   # FEN: replete lytes prn / regular diet
   .
   # PPX: supratherapeutic on coumadin, bowel regimen
   .
   # ACCESS: NO PIV, nurse will attempt to establish access/ permanent
   dialysis cath R fem
   .
   # CODE: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2142-1-14**] 07:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: